US05712267
(1R,5S,6S)-2-[(2S,4S)-2-(3-Formimidoylaminoazetidin-1-ylcarbonyl)-1-methylpyrrolidin-4-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylic acid
A procedure similar to that described in Example 125 was repeated, but using 0.35 g of 4-nitrobenzyl (1R,5R,6S)-2-(diphenylphosphoryloxy)-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate (prepared as described in Preparation 123) and 0.22 g of (2S,4S)-4-mercapto-1-methyl-2-(3-[N-(4-nitrobenzyloxycarbonyl)-N-formimidoylamino]azetidin-1-ylcarbonyl)pyrrolidine (prepared as described in Preparation 118), to give 17 mg of the title compound as a powder.

reactant | 4-nitrobenzyl (1R,5R,6S)-2-(diphenylphosphoryloxy)-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 0.35 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)OC=1[C@@H]([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C | C29H27N2O8P
reactant | (2S,4S)-4-mercapto-1-methyl-2-(3-[N-(4-nitrobenzyloxycarbonyl)-N-formimidoylamino]azetidin-1-ylcarbonyl)pyrrolidine | 0.22 g | S[C@H]1C[C@H](N(C1)C)C(=O)N1CC(C1)N(C=N)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C18H23N5O5S
product | (1R,5S,6S)-2-[(2S,4S)-2-(3-Formimidoylaminoazetidin-1-ylcarbonyl)-1-methylpyrrolidin-4-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylic acid | 17 mg | C(=N)NC1CN(C1)C(=O)[C@H]1N(C[C@H](C1)SC=1[C@@H]([C@H]2N(C1C(=O)O)C([C@@H]2[C@@H](C)O)=O)C)C | C20H29N5O5S
